US07595398B2
(S)-2-[4-(5-Cyclopropylcarbamoyl-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester (Compound 5351)
In a similar procedure as described for the synthesis of Compound 5352 (Example 352), treatment of (S)-2-[4-(5-Carboxy-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester with HATU (0.23 g, 0.6 mmol), DIEA (0.2 mL, 1.53 mmol), and cyclopropylamine (0.1 1 mL) furnished the desired product. 1HNMR (DMSO-d6) δ(ppm) 12.59-12.57 (d, 1H), 8.42-8.39 (m, 1H), 7.64-7.62 (d, 1H), 7.36-7.30 (m, 2H), 7.14-7.10 (m, 3H), 6.73-6.70 (m, 1H), 5.10-4.87 (m, 2H), 4.51-4.43 (m, 2H), 3.52-3.36 (m, 2H), 2.80-2.77, (m, 2H), 2.27-2.24 (m, 1H), 1.94-1.83 (m, 3H), 0.73-0.58 (m, 4H); MS: 481.2 (M+H+).

reactant | (S)-2-[4-(5-Carboxy-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C=1OC(=CC1)C(=O)O)=O | C21H19N3O6S
reactant | HATU | 0.6 mmol, 0.23 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.53 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylamine | 1 mL | C1(CC1)N | C3H7N
product | (S)-2-[4-(5-Cyclopropylcarbamoyl-furan-2-yl)-thiazol-2-ylcarbamoyl]-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C(NC=1SC=C(N1)C=1OC(=CC1)C(NC1CC1)=O)=O | C24H24N4O5S
